US05238922
N-(3-phenyl-2(S)-(mercaptopropionylamino)prop-1-yl)isoleucyl-methionine was prepared by coupling resin-bound methionine to N-(3-phenyl-2(S)-t-butoxycarbonylaminopropyl)isoleucine followed by deprotection, coupling with a protected cysteine and further processing under standard solid phase synthesis conditions. FAB MS m/z 484 (M+1).

reactant | methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | N-(3-phenyl-2(S)-t-butoxycarbonylaminopropyl)isoleucine | C1(=CC=CC=C1)C[C@@H](CN[C@@H]([C@@H](C)CC)C(=O)O)NC(=O)OC(C)(C)C | C20H32N2O4
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
product | N-(3-phenyl-2(S)-(mercaptopropionylamino)prop-1-yl)isoleucyl-methionine | C1(=CC=CC=C1)C[C@@H](CN[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCSC)C(=O)O)NC(CCS)=O | C23H37N3O4S2
